### PR TITLE
refactor(Combinatorics/SimpleGraph/Copy): rename copy counts, align variable names, clean up docstring

### PR DESCRIPTION
**Pull request by FordUniver**
Renames `labelledCopyCount` to `copyCount` and reassigns the previous `copyCount` to `unlabeledCopyCount`. Unifies graph-variable letters to the standard `G`uest / `H`ost convention. Restructures and cleans up the module docstring.

Co-authored-by: Malte Jackisch <45597826+MaltyBlanket@users.noreply.github.com>

---

**Step 2/5 of the `Copy` / `InducedCopy` refactor-feat stack.**

Originally motivated by [a adiscussion](https://github.com/leanprover-community/mathlib4/pull/38631#discussion_r3163732684)  in #38631 by @SnirBroshi that the British spelling of `labelled` is deprecated; see also discussion on Zulip ([#general > SimpleGraph.Copy is labeled but copyCount is not](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/SimpleGraph.2ECopy.20is.20labeled.20but.20copyCount.20is.20not)). The addition of the new `UnlabeledCopy` type was separated into #39307 as a requirement to keep the diff somewhat readable.

On top of the Zulip discussion I also unified the argument naming to always follow the `G`uest / `H`ost convention. This highlighted a discrepancy where we write `Copy G H` but `copyCount H G`. I left this untouched since small-first-big-later seems to be the type and big-first-small-later the ops norm in mathlib. I am happy to align them if someone has a strong opinion either way.

I also adjusted a ton of docstrings since the rename was already touching them, so it seemed sensible to use this opportunity for cleanup. Open to suggestions for what should be done differently.

I also considered replacing `Bot`/`Top` with `EmptyGraph`/`CompleteGraph` in args and statement names (@SnirBroshi that was the now-closed #39303 ) because I thought that was established with #23838 but it seems [controversial](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/completeGraph.20vs.20.E2.8A.A4), so I have reverted it.

| notion | before | after |
|---|---|---|
| labelled copy / injective hom / monomorphism | `Copy A B` | `Copy G H` |
| count of labelled copies | `G.labelledCopyCount H` | `H.copyCount G` |
| count of unlabelled copies | `G.copyCount H` | `H.unlabeledCopyCount G` |
| killing operation | `G.killCopies H` | `H.killCopies G` |
| graph variables | mixed `A B C` / `α β γ` and `G H I` / `V W X` | uniform `G H I` / `V W X` (+ `G'`/`H'` on `V'`/`W'`) |

- [ ] depends on: #39307

Diff for the changes *just* in this PR over its predecessor: [link](https://github.com/FordUniver/mathlib4/compare/feat/copy-sub-abbrev...chore/copy-spelling)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 1]
```diff
@@ -466,39 +466,51 @@ theorem isIndContained_iff_exists_comap_eq : H ⊴ G ↔ ∃ (f : W ↪ V), G.co
...
-noncomputable def labelledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
+/-- `G.labeledCopyCount H` is the number of labeled copies of `H` in `G`, i.e. the number of graph
+embeddings from `H` to `G`. See `SimpleGraph.copyCount` for the number of unlabeled copies. -/
+@[no_expose] noncomputable def labeledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
   classical exact Fintype.card (Copy H G)
 
-@[simp] lemma labelledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
-    G.labelledCopyCount H = 1 := by
+@[deprecated labeledCopyCount (since := "2026-04-30")]
+alias labelledCopyCount := labeledCopyCount
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: `deprecated` picks up the replacement from the RHS of the `alias`
```suggestion
@[deprecated (since := "2026-04-30")] alias labelledCopyCount := labeledCopyCount
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 2]
```diff
@@ -466,39 +466,51 @@ theorem isIndContained_iff_exists_comap_eq : H ⊴ G ↔ ∃ (f : W ↪ V), G.co
...
+
+@[simp] lemma labeledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
+    G.labeledCopyCount H = 1 := by
   convert Fintype.card_unique
   exact { default := ⟨default, isEmptyElim⟩, uniq := fun _ ↦ Subsingleton.elim _ _ }
 
-@[simp] lemma labelledCopyCount_eq_zero : G.labelledCopyCount H = 0 ↔ H.Free G := by
-  simp [labelledCopyCount, Fintype.card_eq_zero_iff]
+@[deprecated labeledCopyCount_of_isEmpty (since := "2026-04-30")]
+alias labelledCopyCount_of_isEmpty := labeledCopyCount_of_isEmpty
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
@[deprecated (since := "2026-04-30")]
alias labelledCopyCount_of_isEmpty := labeledCopyCount_of_isEmpty
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 3]
```diff
@@ -466,39 +466,51 @@ theorem isIndContained_iff_exists_comap_eq : H ⊴ G ↔ ∃ (f : W ↪ V), G.co
...
+
+@[simp] lemma labeledCopyCount_eq_zero : G.labeledCopyCount H = 0 ↔ H.Free G := by
+  simp [labeledCopyCount, Fintype.card_eq_zero_iff]
+
+@[deprecated labeledCopyCount_eq_zero (since := "2026-04-30")]
+alias labelledCopyCount_eq_zero := labeledCopyCount_eq_zero
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
@[deprecated (since := "2026-04-30")] alias labelledCopyCount_eq_zero := labeledCopyCount_eq_zero
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 4]
```diff
@@ -466,39 +466,51 @@ theorem isIndContained_iff_exists_comap_eq : H ⊴ G ↔ ∃ (f : W ↪ V), G.co
...
 
-@[simp] lemma labelledCopyCount_pos : 0 < G.labelledCopyCount H ↔ H ⊑ G := by
-  simp [labelledCopyCount, IsContained, Fintype.card_pos_iff]
+@[simp] lemma labeledCopyCount_pos : 0 < G.labeledCopyCount H ↔ H ⊑ G := by
+  simp [labeledCopyCount, IsContained, Fintype.card_pos_iff]
 
-end LabelledCopyCount
+@[deprecated labeledCopyCount_pos (since := "2026-04-30")]
+alias labelledCopyCount_pos := labeledCopyCount_pos
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
@[deprecated (since := "2026-04-30")] alias labelledCopyCount_pos := labeledCopyCount_pos
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 5]
```diff
@@ -517,10 +529,13 @@ lemma copyCount_eq_card_image_copyToSubgraph [Fintype {f : H →g G // Injective
...
     filter_nonempty_iff]
 
-/-- There's at least as many labelled copies of `H` in `G` than unlabelled ones. -/
-lemma copyCount_le_labelledCopyCount [Fintype W] : G.copyCount H ≤ G.labelledCopyCount H := by
+/-- There's at least as many labeled copies of `H` in `G` than unlabeled ones. -/
+lemma copyCount_le_labeledCopyCount [Fintype W] : G.copyCount H ≤ G.labeledCopyCount H := by
   classical rw [copyCount_eq_card_image_copyToSubgraph]; exact card_image_le
 
+@[deprecated copyCount_le_labeledCopyCount (since := "2026-04-30")]
+alias copyCount_le_labelledCopyCount := copyCount_le_labeledCopyCount
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]:
```suggestion
@[deprecated (since := "2026-04-30")]
alias copyCount_le_labelledCopyCount := copyCount_le_labeledCopyCount
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 6]
```diff
@@ -466,39 +466,48 @@ theorem isIndContained_iff_exists_comap_eq : H ⊴ G ↔ ∃ (f : W ↪ V), G.co
...
 -/
 
-section LabelledCopyCount
+section LabeledCopyCount
 variable [Fintype V] [Fintype W]
 
-/-- `G.labelledCopyCount H` is the number of labelled copies of `H` in `G`, i.e. the number of graph
-embeddings from `H` to `G`. See `SimpleGraph.copyCount` for the number of unlabelled copies. -/
-noncomputable def labelledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
+/-- `G.labeledCopyCount H` is the number of labeled copies of `H` in `G`, i.e. the number of graph
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: I think this is just a UK vs US thing? probably not worth churning over

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 7]
```diff
@@ -466,39 +466,48 @@ theorem isIndContained_iff_exists_comap_eq : H ⊴ G ↔ ∃ (f : W ↪ V), G.co
...
+embeddings from `H` to `G`. See `SimpleGraph.copyCount` for the number of unlabeled copies. -/
+@[no_expose] noncomputable def labeledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Can you remove the `@[expose]` from L.62 instead?
```suggestion
noncomputable def labeledCopyCount (G : SimpleGraph V) (H : SimpleGraph W) : ℕ := by
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 6 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Based on [the request](https://github.com/leanprover-community/mathlib4/pull/38631#discussion_r3163732684) of @SnirBroshi in #38631, see [spelling conventions](https://leanprover-community.github.io/contribute/naming.html#spelling). I figured if the induced notions need to follow it it would be unexpected for the old ones to stay the same. Otherwise we would have monstrosities like

```
lemma indLabeledCopyCount_le_labelledCopyCount : G.indLabeledCopyCount H ≤ G.labelledCopyCount H := ...
```

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 7 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: In that case I can also just do it in #38631 and have this PR be spelling only? Not sure if @plp127 has a preference here.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 6 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Technically docstrings can stay UK according to conventions, but it makes sense if they're consistent with the spelling of the def (which is US)

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: I don't really mind

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 6 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Ah, the question from @YaelDillies was about docstring churn in particular, not aligning spelling in general? I tend to agree with @SnirBroshi that consistency is probably worth it.

This is a bit off topic, but I think the bigger issue that is actually resulting in a terrible diff seems to be the way that deprecated aliases are resolved:

```
- @[simp] lemma labelledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
-    G.labelledCopyCount H = 1 := by
+ @[deprecated (since := "2026-04-30")] alias labelledCopyCount := labeledCopyCount
+ 
+ @[simp] lemma labeledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
+     G.labeledCopyCount H = 1 := by
```

A better diff would probably look like

```
+ @[deprecated (since := "2026-04-30")] alias labelledCopyCount := labeledCopyCount
+ 
- @[simp] lemma labelledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
-    G.labelledCopyCount H = 1 := by
+ @[simp] lemma labeledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
+     G.labeledCopyCount H = 1 := by
```

I found some prior discussion on this on zulip or in PRs ([1](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Deprecation.20policy/near/463375969), [2](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/deprecated_module/near/525093839), [3](https://github.com/leanprover-community/mathlib4/pull/37806)), but the only recommendation I could find that would resolve it is to split the rename and deprecated aliases (which seems convoluted and ultimately doesn't really fix the diff issue) or grouping deprecated aliases at the bottom of the file (which seems directly counter to the [official conventions](https://github.com/leanprover-community/mathlib4/blob/master/scripts/add_deprecations.sh)).

I am wondering if a another option like direct tagging of the renamed lemma with something like `@[deprecated_alias (..., since := ...]` would be workable? It's not drastically different but it removes one repetition of the name, an extra line, and is combinable with other tags like `@[simp]`. It should diff like this:

```
-@[simp] lemma labelledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
-    G.labelledCopyCount H = 1 := by
+@[simp, deprecated_alias(labelledCopyCount_of_isEmpty, since := "2026-04-30")]
+lemma labeledCopyCount_of_isEmpty [IsEmpty W] (G : SimpleGraph V) (H : SimpleGraph W) :
+    G.labeledCopyCount H = 1 := by
```

I guess locally users can just resolve this with [custom diff tools](https://github.com/Julian/tree-sitter-lean), but the github online diff doesn't seem customizable to language specifics (which feels like an oversight).

Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean]: Probably better to discuss this on zulip, I will mark this as resolved. Just reopen if you want me to actually change anything.

**Comment by FordUniver** [comment]
Labeled with `awaiting-zulip` based on [#**general>SimpleGraph.Copy is labeled but copyCount is not**](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/SimpleGraph.2ECopy.20is.20labeled.20but.20copyCount.20is.20not/with/594321703). The question is whether to enforce both `labeled` and `unlabeled` as a prefix for `copyCount` and deprecate the un-prefixed version. If so, this PR would probably be a natural place to do so.

**Comment by FordUniver** [comment]
Updated the PR per [discussion on zulip](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/SimpleGraph.2ECopy.20is.20labeled.20but.20copyCount.20is.20not), also aligned the variable names to follow `G`uest / `H`ost convention after checking with @YaelDillies and cleaned up docstrings. Also split up the `abbrev Sub` into a prerequisite PR (#39307).

Ready to be reviewed again. Use [this link](https://github.com/FordUniver/mathlib4/compare/feat/copy-sub-abbrev...chore/copy-spelling) for the diff over #39307.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean [hunk 8]
```diff
@@ -9,42 +9,46 @@ public import Mathlib.Algebra.Order.Group.Nat
...
-`H` isomorphic to `G`.
+If `H` contains a copy of `G`, we say that `H` *contains* `G`. If the copy is induced (i.e., the
+vertex map also *reflects* adjacency), we say that `H` *inducingly contains* `G`.
 
-If there exists a copy of `G` in `H`, we say that `H` *contains* `G`. This is equivalent to saying
-that there is an injective graph homomorphism `G → H` between them (this is **not** the same as a
-graph embedding, as we do not require the subgraph to be induced).
-
-If there exists an induced copy of `G` in `H`, we say that `H` *inducingly contains* `G`. This is
-equivalent to saying that there is a graph embedding `G ↪ H`.
```
Comment (mitchell-horner) [inline Mathlib/Combinatorics/SimpleGraph/Copy.lean:24]: I actually would rather this the other way around. That `H` is the smaller contained graph and `G` is the larger graph.

The idea being that `H.Free G` looks like a predicate "is $G$ a $H$-free graph".

I understand this is purely cosmetic, but that is how it is written in `extremal/*.lean` and it would be nice to be consistent if we are going through rewriting variables, etc.

That is, `H < G < I` should be the order.

I had originally used `A`,  `B`, `C`  to be generic but that was a poor choice in retrospect. 😅

**Review by mitchell-horner — CHANGES_REQUESTED** [review]
I think this is a good idea. I sense `Sub` will be unpopular as a name (I personally don't mind it), but I agree with the shape of everything.

File: Mathlib/Combinatorics/SimpleGraph/Copy.lean (hunk 8 above)
Comment (FordUniver) [reply Mathlib/Combinatorics/SimpleGraph/Copy.lean:24]: I am not quite sure I follow what convention you are suggesting? To use different variable letters or different variable order? There is three different things overall:

1. What letters do we use for `SimpleGraph` variables (`G`, `H`, `I` or `A`, `B`, `C`)?
2. Do we (try to) use consistent letters to highlight the "small" in relation to the "large" graphs?
3. In which order do "small" and "large" graph appear as arguments of any particular definition or statement.

I believe the file was previously inconsistent with respect to all three. Now it is only (somewhat) inconsistent with respect to (3): types (`Copy`) are big-first while ops (`copyCount`) are small first. This is somewhat in line with mathlib practices though I couldn't find any other examples where type and op are so closely linked in name as `Copy` and `copyCount`.

W.r.t. the order I don't have any particularly strong opinion, i.e., I can swap the order of both / either `Copy` and `copyCount`. If we wanted to avoid any confusion, we could have more verbose names `FreeOf`, `FreeFrom`, `copyCountOf`, `copyCountIn`, ...

But what I would find very confusing is to use `G` for the big graph and `H` for the smaller one or to just have an "alphabetic by argument order" convention, i.e., we would have `copy G H` and `copyCount G H` but the variable names do not align. I am not sure how common this convention is, but I have always liked the `G`uest / `H`ost mnemonic.
